US08859566B2
To the mixture of methanol (2 ml) and NaH (45 mg, 1.1 mmol), 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (50 mg, 0.11 mmol) was added and refluxed for 2 hours at 80° C. Reaction mixture was cooled, diluted with ethyl acetate (10 ml) and quenched with saturated NH4Cl solution. The organic layer was separated and washed with brine (2×10 ml), dried over Na2SO4, filtered and evaporated. The residue obtained was purified by preparative HPLC to obtain pure 2-Methoxy-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (26 mg, 53%) as an off white solid.

reactant | methanol | 2 ml | CO | CH4O
reactant | NaH | 1.1 mmol, 45 mg | [H-].[Na+]
reactant | 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 0.11 mmol, 50 mg | ClC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C19H16ClF3N6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-Methoxy-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 26 mg, 53% | COC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C20H19F3N6O2
